data/oMe_Silver.jsonl
{"reaction_id": "NR-105_1-Cl_2-OCC_3-N(C)C_4-C2CC2_5-C(C)(C)C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(C2CC2)c(N(C)C)c(OCC)c(Cl)c1)\\C(=O)OC(C)(C)C"],"products_smiles": ["c1c(C(=O)OC(C)(C)C)[nH]c2c1c(C2CC2)c(N(C)C)c(OCC)c2Cl"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(C2CC2)c(N(C)C)c(OCC)c(Cl)c1)\\C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C(C)(C)COC(=O)C1C=C2C(=[n]1)c(c(c(c2C2CC2)N(C)C)OCC)Cl","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC(C)(C)C)[nH]c2c1c(C2CC2)c(N(C)C)c(OCC)c2Cl","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
{"reaction_id": "NG-005_1-c1ccc(N(=O)=O)cc1_2-c1ccc(C)cc1_3-c1ccccc1","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccc(N(=O)=O)cc1)C=O","C(c1ccc(C)cc1)(c1ccccc1)=O"],"products_smiles": ["C(c1ccc(C)cc1)(c1ccccc1)=C(C=O)c1ccc(N(=O)=O)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(=O)=O)cc1)=C(O)c1ccc(C)cc1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C)cc1)(c1ccccc1)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(C)cc1)(c1ccccc1)(O)C(C=[OH+])c1ccc(N(=O)=O)cc1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(C)cc1)(c1ccccc1)(O)C(C=O)c1ccc(N(=O)=O)cc1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C)cc1)(c1ccccc1)([OH2+])C(C=O)c1ccc(N(=O)=O)cc1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(C)cc1)(c1ccccc1)=C(C=O)c1ccc(N(=O)=O)cc1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
